Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
neck and epigastric pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with h/o RA, osteoprosis, who presented to the ED with 1 day 
of epigastic pain and neck pain. Pt reports that on the ___ 
night prior to admission, pt developed neck pain. Pain was 
gradual on onset, with no inciting factor including trauma or 
fall. Pt thought pain was ___ to her arthritis, as the pain was 
similar. Pt describes the pain as dull, localizes it to the 
upper thoracic spine. No relief with Vicodin. Worsens with 
palpation and rotation. On the floor, pt only endorses neck pain 
with rotation of neck.
.
In addition, pt started having epigastic pain on ___ 
morning, which interfered with her sleeping. She states that 
this pain is dull and constant, feels different than her GERD 
pain. Per patient, had CP with prior MI,but this pain is also 
different from that instance. Denies radiation to other 
locations. Patient with good appetite, and epigastric pain 
decreased after eating sandwich in ED. Now on the floor, pt 
still endorses some epigastric pain, which she describes as 
'deep' and worse with inspiration. Pt also endorses increases 
SOB, but it is unclear if she has SOB at baseline. Denies F/C. 
Denies sick contacts. Increased cough recently, but not 
productive.
.
She denies any change in her bowel habits, no hematochezia or 
BRBPR. Last BM 2 days ago, takes Senna and fiber pills at home 
when she needs them. She denies any N/V/F/C/CP/neck 
stiffness/HA. Patient has H/o MI and CVA in past, off Coumadin x 
___ year at cardiologist's request. She is in a wheelchair at 
baseline; she states this is ___ her RA and DJD.     
.  
ROS: Denies fever, chills, night sweats, headache, rhinorrhea, 
congestion, sore throat, chest pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
No unintended weight loss.  
.  
 
Past Medical History:
CAD s/p MI ___ c/b LV thrombus causing CVA -- still has word 
finding difficulties ___ CVA  
AF -- off Coumadin per cardiologist's request 
Rheumatoid arthritis  
HTN  
GERD  
Hypothyroidism  
Hypercholesterolemia  
 
Social History:
___
Family History:
FAMILY HISTORY: Sister with MI in ___.
 
Physical Exam:
EXAM ON ADMISSION:
VS: 97.9 106/50 76 16 99% on 2L NC  
GENERAL: Well-appearing female in NAD, comfortable, appropriate. 
 
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no JVD, no carotid bruits, tenderness with 
palpation over lower cervical/upper thoracic spine.   
HEART: Irregular rate, ___ holosystolic murmur, nl S1-S2. No 
r/g.  
LUNGS: Respiration unlabored. Crackles at L base.
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 1+ peripheral pulses. Ulnar 
deviation/swan neck deformaties bilaterally.   
SKIN: No rashes or lesions. ___ skin darkened bilaterally, 
non-blanching.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout.  

EXAM ON DISCHARGE:
Unchanged except that patient was 97% on RA.
 
Pertinent Results:
___ BLOOD  WBC-7.9 RBC-3.21* Hgb-10.5* Hct-30.6* MCV-96 
MCH-32.8* MCHC-
                34.3 RDW-16.1* Plt ___
___ BLOOD  WBC-11.0 RBC-3.49* Hgb-11.2* Hct-32.7* MCV-94 
MCH-32.3* MCHC-
                34.4 RDW-16.4* Plt ___

___ BLOOD  ___ PTT-26.4 ___

___ BLOOD  Glucose-120* UreaN-23* Creat-0.8 Na-138 K-4.0 
Cl-100 HCO3-27 
___ BLOOD  Glucose-92 UreaN-17 Creat-0.7 Na-140 K-4.3 
Cl-104 HCO3-28 AnGap-12

___ BLOOD ALT-17 AST-17 AlkPhos-64 TotBili-0.5
___ BLOOD Lipase-13
___ BLOOD cTropnT-<0.01
___ BLOOD cTropnT-<0.01
___ BLOOD cTropnT-<0.01

___ BLOOD Calcium-8.6 Phos-2.4* Mg-1.8 Iron-24*
___ BLOOD calTIBC-215* Ferritn-206* TRF-165*
___ BLOOD Lactate-2.0
___ BLOOD Lactate-1.2

___ CXR:
1. New left basilar opacity on the AP view without definite 
correlate on the lateral view, may reflect soft tissue 
attenuation, though if there is ongoing clinical concern for 
pneumonia, repeat PA and lateral radiographs could be obtained.
2. New subtle nodular density projecting over the right midlung, 
which should be further evaluated with non-emergent chest CT.
3. Mildly worsened interstitial abnormality, again compatible 
with pulmonary fibrosis.

___ CT NECK NON-CONTRAST:
1. No cervical spine fracture.
2. Significant degenerative change as detailed above, with 
likely
degenerative malalignment and resultant severe canal narrowing 
at C4-5, and
effacement of the thecal sac and likely deformity of the cord. 
If there is
concern for cord injury (i.e. trauma), or chronic cord malacia, 
MRI should be considered for further evaluation.
3. 1.9-cm isthmic thyroid nodule.

___ PERSANTINE STRESS TEST
Possible ischemic ECG changes noted in the setting of
baseline ECG abnormalities. No anginal type symptoms reported.
Appropriate hemodynamic response to Persantine. Nuclear report 
sent
separately.

___ CARDIAC PERFUSION STUDY
Left ventricular cavity size is normal.
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium.
 
Gated images reveal normal wall motion.
The calculated left ventricular ejection fraction is 72%.
 
Brief Hospital Course:
ASSESSMENT & PLAN: Ms. ___ is a ___ with CAD s/p MI, h/o 
CVA, RA, DJD, HTN, HL who presents with 2 days epigastic pain 
worsening with inspiration and 3 days increased neck pain, with 
new TWI on EKG, concerning for ishchemia, but neg troponin and 
evidence of pneumonia on CXR.  
.
ACTIVE ISSUES: 
# Atypical chest pain: Pt with history of CAD and MI in ___. 
Now presenting with epigastic pain and increased neck pain. 
Troponins negative x2, EKG with new TWI in V5-V6 per report, 
concerning for ishchemia. Pt reports CP with previous MI, but 
states that this pain is different. Pt received one dose of 325 
mg ASA. Pt received pharm nuclear stress test today. Perfusion 
study showed no abnormalities. Chem stress test showed possible 
ischemic ECG changes noted in the setting of baseline ECG 
abnormalities with no anginal type symptoms reported. No further 
___ was felt needed at this time, and patient was discharged 
on her home metoprolol and atorvastatin.  
.  
# Comm Aq Pneumonia: On admission, pain with inspiration and 
increased SOB; increased cough but not productive; no F/C. 
Patient with good O2 sats on 2 L NC. CXR with new opacities 
concerning for pneumonia, WBC borderline high with neutrophil 
predominance. Patient was started on a five day course of 
levoflaxacin 750 mg PO QD (first day ___ to treat CABP. Blood 
cultures and a sputum culture were sent. Will follow-up with 
primary care provider if any cultures are positive.
.  
# Neck pain/DJD: Ongoing, with recent gradual increase 
associated with no acute events including trauma. Decreased in 
the course of hospital admission. Pain similar to pain from RA. 
CT of neck revealed degenerative changes, no evidence of acute 
new processes. Patient's pain controlled with home vicodin and 
fentanyl patch. Patient discharged on home dose of methotrexate.
.
# Atrial fibrillation: Pt has hx of a-fib. Per EKG, pt not 
currently in a-fib.Per pt, not currently on anticoagulation ___ 
cardiologist's recommendations. Pt was monitored on telemetry, 
with no events.  
.  
# Anemia: Hct 32.7 near baseline from ___ per OMR. No known GI 
bleeding, Guaiac negative for blood in ED. MCV 94, high RDW. 
Iron studies were completed, with results  most consistent with 
anemia of chronic disease.
.
INACTIVE ISSUES:
# hx CVA: Stable. Patient with word-finding difficulties at 
baseline. No new neuro deficits.
.  
# HTN: Pt was normotensive on floor. She was placed on a heart 
healthy, 2 g sodium restricted diet. She was continued on her 
home captopril and metoprolol  
.  
# Hyperlipidemia: Patient was continued on her home 
artorvastatin 80 mg PO QD.
.  
# Glaucoma: Patient continued home brimonidine drops. 
.  
# GERD: Patient received omeprazole while in the hospital, and 
was discharged on her home dose of Nexium.  
.  
# Hypothyroidism: Stable. Patient was continued on home dose of 
levothyroxine during admission.  
.  
# Depression: Patient was continued on home dose of Citalopram 
during admission. 
.
TRANSITIONAL ISSUES: 
#Lung nodule: Patient should follow-up with PCP for possible 
further imaging of lung nodule on CXR.
#Thyroid nodule: Patient should follow-up with PCP for possible 
___ of thyroid nodule idenitified on neck CT.
 
Medications on Admission:
ATORVASTATIN [LIPITOR] 80 mg  PO QD
BRIMONIDINE [ALPHAGAN P]  0.1 % Drops  One gtt in each eye Q12H
CAPTOPRIL  25 mg Tablet  PO TID
CITALOPRAM 20 mg Tablet  PO QD  
ESOMEPRAZOLE MAGNESIUM [NEXIUM]  40 mg Capsule, Delayed Release 
QD  
FOLIC ACID  1 mg Tablet PO QD  
HYDROCODONE-ACETAMINOPHEN [VICODIN] 5 mg-500 mg TID:PRN pain
LEVOTHYROXINE  50 mcg Tablet PO QD  
METHOTREXATE SODIUM  10 mg PO qweek  
METOPROLOL TARTRATE  12.5 mg PO BID
PROPOXYPHENE N-ACETAMINOPHEN  100 mg-500 mg  PO QPM
FENTANYL 50mcg/hr TD Q72H  
ASCORBIC ACID  ___ mg Tablet PO QD  
CALCIUM ULTRA  600 mg (1,500 mg)-60 mg-200 unit-15 unit PO BID  
MULTIVITAMIN-MINERALS-LUTEIN [CENTRUM SILVER] QD 
 
Discharge Medications:
1. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic Q12H 
(every 12 hours).  
3. captopril 25 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
4. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q8H (every 8 hours) as needed for pain.  
7. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
9. fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
10. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. multivitamin,tx-minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
12. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 4 days.
Disp:*4 Tablet(s)* Refills:*0*
13. esomeprazole magnesium 40 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day. 
Capsule, Delayed Release(E.C.)(s) 
14. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
15. methotrexate sodium 10 mg Tablet Sig: One (1) Tablet PO once 
a week.  
16. propoxyphene-acetaminophen  Sig: 100mg-500mg tablet  QPM as 
needed for pain: Take 1 tab at night as needed.  
17. calcium-ultra  Sig: 600mg (1500mg)-60mg-200 units-15 units 
tab  twice a day: Take 1 tab twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pneumonia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with 
increased neck pain and epigastric pain. You received a chest 
x-ray, which had findings consistent with a pneumonia. We began 
to treat you with antibiotics, which you should keep taking for 
a total of 5 days. 

We also checked to see if you had new problems with your heart. 
Your laboratory tests did not show anything concerning, but you 
had some small changes on your electrocardiogram, which can 
sometimes mean that your heart is not getting enough blood flow. 
To further investigate this, you were given a nuclear medicine 
stress test, which showed that your heart was getting enough 
blood flow and you do not require any further testing at this 
time. 

MEDICATION CHANGES:
START Levoquin-- Take 750 mg (1 pill) once a day for 4 days. 
This medication is to treat your pneumonia. It is important that 
you take all doses of this medication.  

Please continue to take all of your other home medications 
unchanged.

It was a pleasure taking care of you. Please contact your 
primary care doctor or return to the emergency room with any 
concerning symptoms.
 
Followup Instructions:
___